US05990142
1D 2-(Benzyloxymethyl)chromane
A suspension of 60% sodium hydride dispersion in mineral oil (0.711 g, 17.8 mmol, previously washed with dry petroleum ether) in dry N,N-dimethylformamide (30 ml) was added; under inert atmosphere, with 2-chromanemethanol (1.218 g, 7.43 mmol) dissolved in N,N-dimethylformamide (15 ml) and the mixture was left under stirring at room temperature for 1 h. After that a solution of benzyl hbromide (2.12 ml, 17.8 mmol) in N,N-dimethylformamide (20 ml) and some crystals of tetrabutylammonium iodide were added stirring at room temperature for 18 h. Afterwards, water (10 ml) was added and the solvent was evaporated off under reduced pressure. The obtained residue was partitioned in a mixture of water (70 ml) and ethyl ether (70 ml), the phases were separated and the aqueous one was extracted with ethyl ether (3×70 ml). The combined organic phases were dried and the solvent was evaporated off under reduced pressure, to obtain a crude which was purified by flash chromatography through a silica gel column. Eluting with petroleum ether:ethyl ether, 9:1, 1.569 g of the title product were recovered (83% yield).

reactant | sodium hydride | [H-].[Na+]
reactant | 2-chromanemethanol | 7.43 mmol, 1.218 g | O1C(CCC2=CC=CC=C12)CO | C10H12O2
reactant | water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-(Benzyloxymethyl)chromane | 83% yield | C(C1=CC=CC=C1)OCC1OC2=CC=CC=C2CC1 | C17H18O2
